US06723720B2
6-(4-Chlorobenzylamino)-3-(2,6-difluorophenyl)-[1,2,4]triazine
0.9 g of 6-chloro-3-(2,6-difluorophenyl)-[1,2,4]triazine is placed in 10 ml of methylene chloride, and 0.57 g of 4-chlorobenzylamine and 0.81 g of triethylamine are added. After being stirred at room temperature for 2 h, the reaction mixture is poured into water and extracted with methylene chloride; the organic phase is concentrated and the residue is purified by means of column chromatography over silica gel. In this way the title compound having a melting point of 200-205° C. is obtained.

reactant | 6-chloro-3-(2,6-difluorophenyl)-[1,2,4]triazine | 0.9 g | ClC1=CN=C(N=N1)C1=C(C=CC=C1F)F | C9H4ClF2N3
reactant | 4-chlorobenzylamine | 0.57 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | triethylamine | 0.81 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 6-(4-Chlorobenzylamino)-3-(2,6-difluorophenyl)-[1,2,4]triazine | ClC1=CC=C(CNC2=CN=C(N=N2)C2=C(C=CC=C2F)F)C=C1 | C16H11ClF2N4
